US06376515B2
A mixture of [4-(aminomethyl)phenyl]-N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}carboxamide (80 mg, 0.21 mmol), 2-methylthio-2-imidazoline hydriodide (77 mg, 0.315 mmol, 1.5 equiv.) and triethyl amine (0.5 mL) in 1 mL DMF was stirred at room temperature overnight, concentrated to dryness and HPLC (C18 reversed phase) eluting with 0.1% TFA in H2O/CH3CN gave N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}{4-[(2-imidazolin-2-ylamino)methyl]phenyl}carboxamide (13.5 mg, 15%). MS found for C23H21ClN6O2 (M+H)+: 449

reactant | [4-(aminomethyl)phenyl]-N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}carboxamide | 0.21 mmol, 80 mg | NCC1=CC=C(C=C1)C(=O)NC1=C(C=CC=C1)C(NC1=NC=C(C=C1)Cl)=O | C20H17ClN4O2
reactant | 2-methylthio-2-imidazoline hydriodide | 0.315 mmol, 77 mg, 1.5 equiv. | I.CSC=1NCCN1
reactant | triethyl amine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}{4-[(2-imidazolin-2-ylamino)methyl]phenyl}carboxamide | 13.5 mg, 15% | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)CNC=1NCCN1 | C23H21ClN6O2
